* ========================================================================
* THAT 120x series P,S packages
* REV 00 - created on 09/24/2004, by FF
* REV 01 -- JBL 5-9-17
* Changed subckt names to THAT1200, THAT1203, THAT1206
* Rev 02 RB 6-14-17
* Changed VCC and VEE to V+ and V-
*
*
* DEVICE=THAT1200 P,S 0dB gain Line receiver
* THAT1200 "macromodel" created on 09/24/2004, by FF
*
* connections:   non-inverting input
*                |   inverting input
*                |   |   positive power supply
*                |   |   |  negative power supply
*                |   |   |  |  output
*                |   |   |  |  |   ref voltage or GND
*                |   |   |  |  |   |   CM input
*                |   |   |  |  |   |   |    CM output
*                |   |   |  |  |   |   |    |
.subckt THAT1200 IN+ IN- V+ V- OUT REF CMIN CMOUT
*
R_R4         2 CMIN  24k  
R_R7         5 4  24k  
R_R6         3 5  24k  
X_U1         1 3 V+ V- 3 OA1456_01
X_U2         2 4 V+ V- 4 OA1456_01
R_R5         REF CMIN  24k  
R_R10        6 REF  6000  
R_R8         3 6  6000  
R_R9         4 7  6000.47
X_U4         6 7 V+ V- OUT OA3456_01
X_U3         5 CMOUT V+ V- CMOUT OA4456_01
R_R11        7 OUT  6000  
R_R3         CMIN 1  24k  
R_R2         IN- 2  0.00001  
R_R1         IN+ 1  0.00001  
D_D10        V- CMIN DPROT 
D_D7         11 IN+ DPROT 
D_D8         11 V- DPROT 
D_D6         10 V- DPROT 
D_D5         10 IN+ DPROT 
D_D9         CMIN V+ DPROT 
D_D2         8 IN+ DPROT 
D_D1         8 V+ DPROT 
D_D4         9 V+ DPROT 
D_D3         9 IN+ DPROT 
D_D15        REF V+ DPROT 
D_D14        V- OUT DPROT 
D_D13        OUT V+ DPROT 
D_D16        V- REF DPROT 
D_D11        CMOUT V+ DPROT 
D_D12        V- CMOUT DPROT 
.ends
*$
* ==========================================================================
*
* DEVICE=THAT1203 P,S -3dB gain Line receiver
* THAT1206 "macromodel" created on 09/24/2004, by FF
*
* connections:   non-inverting input
*                |   inverting input
*                |   |   positive power supply
*                |   |   |  negative power supply
*                |   |   |  |  output
*                |   |   |  |  |   ref voltage or GND
*                |   |   |  |  |   |   CM input
*                |   |   |  |  |   |   |    CM output
*                |   |   |  |  |   |   |    |
.subckt THAT1203 IN+ IN- V+ V- OUT REF CMIN CMOUT
*
R_R4         2 CMIN  17k  
R_R7         5 4  24k  
R_R6         3 5  24k  
X_U1         1 3 V+ V- 3 OA1456_01
X_U2         2 4 V+ V- 4 OA1456_01
R_R5         REF CMIN  24k  
R_R10        6 REF  6000  
R_R8         3 6  6000  
R_R9         4 7  6000.37  
X_U4         6 7 V+ V- OUT OA3456_01
X_U3         5 CMOUT V+ V- CMOUT OA4456_01
R_R11        7 OUT  6000  
R_R3         CMIN 1  17k  
R_R2         IN- 2  7k  
R_R1         IN+ 1  7k  
D_D10        V- CMIN DPROT 
D_D7         11 IN+ DPROT 
D_D8         11 V- DPROT 
D_D6         10 V- DPROT 
D_D5         10 IN+ DPROT 
D_D9         CMIN V+ DPROT 
D_D2         8 IN+ DPROT 
D_D1         8 V+ DPROT 
D_D4         9 V+ DPROT 
D_D3         9 IN+ DPROT 
D_D15        REF V+ DPROT 
D_D14        V- OUT DPROT 
D_D13        OUT V+ DPROT 
D_D16        V- REF DPROT 
D_D11        CMOUT V+ DPROT 
D_D12        V- CMOUT DPROT 
.ends
*$
* ==========================================================================
* DEVICE=THAT1206 P,S -6dB gain Line receiver
* THAT1206 "macromodel" created on 09/24/2004, by FF
*
* connections:   non-inverting input
*                |   inverting input
*                |   |   positive power supply
*                |   |   |  negative power supply
*                |   |   |  |  output
*                |   |   |  |  |   ref voltage or GND
*                |   |   |  |  |   |   CM input
*                |   |   |  |  |   |   |    CM output
*                |   |   |  |  |   |   |    |
.subckt THAT1206 IN+ IN- V+ V- OUT REF CMIN CMOUT
*
R_R4         2 CMIN  17k  
R_R7         5 4  24k  
R_R6         3 5  24k  
X_U1         1 3 V+ V- 3 OA1456_01
X_U2         2 4 V+ V- 4 OA1456_01
R_R5         REF CMIN  24k  
R_R10        6 REF  5k  
R_R8         3 6  7066  
R_R9         4 7  7066  
X_U4         6 7 V+ V- OUT OA3456_01
X_U3         5 CMOUT V+ V- CMOUT OA4456_01
R_R11        7 OUT  5000.1  
R_R3         CMIN 1  17k  
R_R2         IN- 2  7k  
R_R1         IN+ 1  7k  
D_D10        V- CMIN DPROT 
D_D7         11 IN+ DPROT 
D_D8         11 V- DPROT 
D_D6         10 V- DPROT 
D_D5         10 IN+ DPROT 
D_D9         CMIN V+ DPROT 
D_D2         8 IN+ DPROT 
D_D1         8 V+ DPROT 
D_D4         9 V+ DPROT 
D_D3         9 IN+ DPROT 
D_D15        REF V+ DPROT 
D_D14        V- OUT DPROT 
D_D13        OUT V+ DPROT 
D_D16        V- REF DPROT 
D_D11        CMOUT V+ DPROT 
D_D12        V- CMOUT DPROT 
.ends
*$
* ==========================================================================
* OA1456_01 operational amplifier "macromodel" subcircuit for THAT120x series
* created using Parts release 8.0 on 09/21/104 at 14:01
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt OA1456_01 1 2 3 4 5
*
  c1   11 12 866.03E-15
  c2    6  7 3.0000E-12
  cee  10 99 352.17E-15
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 405.86E3 -1E3 1E3 410E3 -410E3
  ga    6  0 11 12 439.19E-6
  gcm   0  6 10 99 4.3919E-9
  iee   3 10 dc 78.480E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 2.2769E3
  rc2   4 12 2.2769E3
  re1  13 10 1.5777E3
  re2  14 10 1.5777E3
  ree  10 99 2.5484E6
  ro1   8  5 50
  ro2   7 99 50
  rp    3  4 32.531E3
  vb    9  0 dc 0
  vc    3 53 dc 1.9847
  ve   54  4 dc 2.3847
  vlim  7  8 dc 0
  vlp  91  0 dc 12
  vln   0 92 dc 12
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=55.870)
.model qx2 PNP(Is=800.0000E-18 Bf=55.870)
.ends
*$
* ==========================================================================
* OA3456_01 operational amplifier "macromodel" subcircuit for THAT120x series
* created using Parts release 8.0 on 09/21/104 at 14:16
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt OA3456_01 1 2 3 4 5
*
  c1   11 12 3.4352E-12
  c2    6  7 11.900E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 90.553E3 -1E3 1E3 91E3 -91E3
  ga    6  0 11 12 2.7216E-3
  gcm   0  6 10 99 27.216E-9
  iee   3 10 dc 154.70E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 367.43
  rc2   4 12 367.43
  re1  13 10 33.049
  re2  14 10 33.049
  ree  10 99 1.2928E6
  ro1   8  5 42
  ro2   7 99 42
  rp    3  4 13.481E3
  vb    9  0 dc 0
  vc    3 53 dc 3.0057
  ve   54  4 dc 2.0057
  vlim  7  8 dc 0
  vlp  91  0 dc 27
  vln   0 92 dc 27
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=69.685E3)
.model qx2 PNP(Is=800.0000E-18 Bf=69.685E3)
.ends
*$
* ==========================================================================
* OA4456_01 operational amplifier "macromodel" subcircuit for THAT120x series
* created using Parts release 8.0 on 09/21/104 at 17:53
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt OA4456_01 1 2 3 4 5
*
  c1   11 12 498.66E-15
  c2    6  7 4.0000E-12
  cee  10 99 1.0980E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 20.789E3 -1E3 1E3 21E3 -21E3
  ga    6  0 11 12 588.11E-6
  gcm   0  6 10 99 5.8811E-9
  iee   3 10 dc 105.40E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 1.7004E3
  rc2   4 12 1.7004E3
  re1  13 10 1.1870E3
  re2  14 10 1.1870E3
  ree  10 99 1.8975E6
  ro1   8  5 167
  ro2   7 99 167
  rp    3  4 95.147E3
  vb    9  0 dc 0
  vc    3 53 dc 1.7773
  ve   54  4 dc 2.3773
  vlim  7  8 dc 0
  vlp  91  0 dc 9
  vln   0 92 dc 9
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=74.286)
.model qx2 PNP(Is=800.0000E-18 Bf=74.286)
.ends
*$
* THAT120x models end here
*$
* ========================================================================
* Protection diode model for THAT124x and THAT120x series
*
.MODEL DPROT D (IS=864.10E-18 RS=100 CJO=194.00E-15 M=.42945 BV=60 IBV=1E-10)
*$
*
